US05223498
A mixture of N-methyl-N'-(2-morpholinophenyl)carbodiimide (1 g), n-butylamine (0.5 g) and t-butanol (5 ml) was heated at 90°-95° C. for four hours. The solvent was removed by evaporation and the residue dissolved in dichloromethane (100 ml) and the resulting solution was washed with water, dried and filtered. Removal of the solvent gave 1-(n-butyl)-2-(2-morpholinophenyl)- 3-methylguanidine which was converted into its monofumarate salt (m.p. 178°-179° C..).

reactant | N-methyl-N'-(2-morpholinophenyl)carbodiimide | 1 g | CN=C=NC1=C(C=CC=C1)N1CCOCC1 | C12H15N3O
reactant | n-butylamine | 0.5 g | C(CCC)N | C4H11N
solvent | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
product | 1-(n-butyl)-2-(2-morpholinophenyl)- 3-methylguanidine | C(CCC)NC(=NC1=C(C=CC=C1)N1CCOCC1)NC | C16H26N4O
